US08058441B2
(b). 1-Acetyl-6-(4-phenylbenzoyl)amino-8-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-8-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (20 mg) with 4-biphenylcarbonyl chloride (100 mg) and pyridine (100 μl) in tetrahydrofuran (5 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-8-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 20 mg | C(C)(=O)N1C(CC(C2=CC(=CC(=C12)OC)N)(C)C1=CC=CC=C1)(C)C | C21H26N2O2
reactant | 4-biphenylcarbonyl chloride | 100 mg | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | pyridine | 100 μl | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(4-phenylbenzoyl)amino-8-methoxy-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC(=C12)OC)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)(C)C1=CC=CC=C1)(C)C | C34H34N2O3
